US06903085B1
Cis-2-[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]cyclopropanecarboxylic acid (0.139 g) and N,N′-carbonyldiimidazole (0.110 g) in dichloromethane was stirred under nitrogen for 1 hour. 1-(3,4-dichlorobenzyl)-4-piperidinamine hydrochloride (0.198 g), and triethylamine (0.121 g) was then added and allowed to stir for 24 hours under nitrogen. Saturated sodium hydrogen carbonate was added to the reaction with the resulting solution being extracted three times with dichloromethane. The pooled organic phases were washed once with water, once with brine, dried over magnesium sulfate, filtered and the solvent removed under reduced pressure to leave an oil. This oil was purified by RPHPLC (75%-5%, 0.1% ammonium acetate/acetonitrile). The solvent was removed under reduced pressure to leave Cis-N-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-2-[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]cyclopropanecarboxamide (0.054 g) as a white solid.

reactant | Cis-2-[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]cyclopropanecarboxylic acid | 0.139 g | N1=C(C=CC=C1)C1=NOC(=N1)[C@@H]1[C@@H](C1)C(=O)O | C11H9N3O3
reactant | 1-(3,4-dichlorobenzyl)-4-piperidinamine hydrochloride | 0.198 g | Cl.ClC=1C=C(CN2CCC(CC2)N)C=CC1Cl
reactant | triethylamine | 0.121 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | Cis-N-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-2-[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]cyclopropanecarboxamide | 0.054 g | ClC=1C=C(CN2CCC(CC2)NC(=O)[C@H]2[C@H](C2)C2=NC(=NO2)C2=NC=CC=C2)C=CC1Cl | C23H23Cl2N5O2
